US04243823
PREPARATION OF 2,6,6-TRIMETHYL-α-n-PROPENYL-1,3-CYCLOHEXADIENE-1-METHANOL
Into a 500 ml reaction flask equipped with immersion thermometer, mechanical stirrer, 250 ml addition funnel, Freidrich's condenser, dry-ice/isopropyl alcohol bath and gas bubbler is placed 1.9 grams (0.28 gram atoms) of lithium wire cut up (44.7 cm in length), and 100 ml anhydrous diethyl ether. The lithium/diethyl ether mixture is cooled with stirred to -10° C. 15.7 Grams (0.13 moles) of 1-bromo-1-propene dissolved in 40 ml diethyl ether is then added dropwise from the addition funnel while maintaining the reaction temperature at from -10° up to -5° C. Following addition of the 1-bromo-1-propene, the reaction mass is stirred for 30 minutes at 0° C. and for a period of 1.5 hours at 20° C. The reaction mass is then chilled to -20° C. and 15.0 grams of Safranal (0.10 moles) in approximately 60 ml diethyl ether is added to the reaction mass dropwise while maintaining the temperature between -20° and -15° C. Following additional of the safranal, the reaction mass is stirred at about -20° C. for a period of 15 minutes and at room temperature (20° C.) for a period of 2.5 hours. The reaction mass is monitored using GLC at 30 minutes, 90 minutes and 150 minutes, at which point, the reaction mass is poured into saturated aqueous ammonium chloride. The resulting mixture is then washed with diethyl ether and the aqueous phase is separated from the organic phase. The organic phase is dried and concentrated to 18.67 grams of oil. 1.0 Grams of crude is set aside for silica gel chromatography; 0.1 grams is set aside for GLC; and the remaining 17.56 grams is distilled in a vacuum distillation apparatus after adding 0.9 grams of sodium carbonate and 19.0 grams of Primol® yielding the following fractions:

reactant | dry-ice isopropyl alcohol | C(=O)=O.C(C)(C)O
reactant | lithium | 1.9 grams | [Li] | Li
reactant | lithium diethyl ether | [Li].C(C)OCC
reactant | 1-bromo-1-propene | 0.13 moles | BrC=CC | C3H5Br
reactant | Safranal | 0.10 moles, 15.0 grams | CC1=C(C(CC=C1)(C)C)C=O | C10H14O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | diethyl ether | approximately 60 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2,6,6-TRIMETHYL-α-n-PROPENYL-1,3-CYCLOHEXADIENE-1-METHANOL | CC1=C(C(CC=C1)(C)C)C(O)C=CC | C13H20O
